US07067540B2
methyl 3-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-chlorobenzoate
methyl 3-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-chlorobenzoate was prepared by reacting methyl-4-chloro-3-[4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]benzoate (2.3 g, 5.47 mmol) with N-bromosuccinamide (0.97 g, 5.47 mmol) in acetonitrile (10 mL) at 0° C., using a similar procedure as described in step 3 of Example 465, to give 1.80 g (66.2%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 8.06-8.03 (m, 2H), 7.86 (d, J=9.70 Hz, 1H), 7.68 (q, J=7.62, 1H), 7.34 (dt, J=10.07, 2.46 Hz, 1H), 7.17 (dt,J=8.72, 2.90 Hz, 1H), 6.73 (s, 1H), 5.33 (s, 2H), 3.85 (s, 3H), 1.91 (s, 3H). ES-MS m/z 495.9757 (M−H calcd for C21H14BrClF2NO4, requires 495.9795).

reactant | methyl-4-chloro-3-[4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]benzoate | 5.47 mmol, 2.3 g | COC(C1=CC(=C(C=C1)Cl)N1C(C=C(C=C1C)OCC1=C(C=C(C=C1)F)F)=O)=O | C21H16ClF2NO4
reactant | N-bromosuccinamide | 5.47 mmol, 0.97 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 3-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-chlorobenzoate | 1.80 g, 66.2% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C=1C=C(C(=O)OC)C=CC1Cl)=O | C21H15BrClF2NO4
